US04549019
2.08 g (11 mmol) of p-toluenesulfonyl chloride in 20 ml of acetone are added dropwise to a solution of 1.47 g (8 mmol) of methyl 2-amino-1,6-dihydro-6-oxo-4-pyrimidinecarbamate, 12 ml of 1N sodium hydroxide, 5 ml of water and 50 ml of acetone. The mixture is stirred at room temperature for 18 hours. After filtration of the precipitate, the solvent is evaporated under reduced pressure. The residue is dissolved in a mixture of ethyl acetate and water, the organic phase is separated, dried and evaporated under reduced pressure. Crystallization from methylene chloride/methanol yields pure methyl 2-amino-6-[(p-toluenesulfonyl)oxy]-4-pyrimidinecarbamate of meltig point 188°-189°.

reactant | p-toluenesulfonyl chloride | 11 mmol, 2.08 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | methyl 2-amino-1,6-dihydro-6-oxo-4-pyrimidinecarbamate | 8 mmol, 1.47 g | NC=1NC(C=C(N1)NC(=O)OC)=O | C6H8N4O3
reactant | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | methyl 2-amino-6-[(p-toluenesulfonyl)oxy]-4-pyrimidinecarbamate | NC1=NC(=CC(=N1)NC(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C | C13H14N4O5S
